US04293557
43 mg of 50% sodium hydride was suspended in 0.5 ml of dry dimethylsulfoxide, and with stirring under ice cooling, a solution of 200 mg of 3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propylamine in 0.5 ml of dimethylsulfoxide was added dropwise. The mixture was stirred at room temperature for 20 minutes. Then, 105 mg of methyl α-hydroxyisobutyrate was added dropwise, and the mixture was stirred at room temperature for 1 hour. Ice water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off, and the resulting crude oil was separated and purified by TLC (developing solvent: chloroform/methanol=9/l) to afford 71 mg of N-(2-hydroxy-2-methylpropionyl)-3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propylamine as an oil.

reactant | sodium hydride | 43 mg | [H-].[Na+]
reactant | 3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propylamine | 200 mg | N1(CCCC1)C(C)C=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | methyl α-hydroxyisobutyrate | 105 mg | OC(C(=O)OC)(C)C | C5H10O3
solvent | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | N-(2-hydroxy-2-methylpropionyl)-3-[3-[1-(1-pyrrolidinyl)ethyl]phenoxy]propylamine | 71 mg | OC(C(=O)NCCCOC1=CC(=CC=C1)C(C)N1CCCC1)(C)C | C19H30N2O3
